US04959368
A solution of 2.16 g (10 mmoles) of ethyl 2-formyl-3-methylsuccinate [Zhur. Obshche i Khim., 30, 2250 (1960)] was added to a mixture of 2.67 g (10 mmoles) of 1-amidino-4-benzylpiperazine sulfate, 1.12 g (10 mmoles) of tert-C4H9OK and 12 ml of tert-C4O9OH. The mixture was then refluxed for 6 hours. The reaction mixture was cooled, and extracted by adding water and CHCl3. The CHCl3 layer was dried over anhydrous MgSO4, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (CH2Cl2 :CH3OH=95:5) to give 0.68 g (yield 23%) of 2-(4-benzylpiperazino)-5-(1-ethoxycarbonylethyl)-4-hydroxypyrimidine.

reactant | ethyl 2-formyl-3-methylsuccinate | 10 mmoles, 2.16 g | C(=O)C(C(=O)OCC)C(C(=O)[O-])C
reactant | 1-amidino-4-benzylpiperazine sulfate | 10 mmoles, 2.67 g | S(=O)(=O)(O)O.C(N)(=N)N1CCN(CC1)CC1=CC=CC=C1
reactant | tert-C4H9OK | 10 mmoles, 1.12 g | C(C)(C)(C)O[K]
product | 2-(4-benzylpiperazino)-5-(1-ethoxycarbonylethyl)-4-hydroxypyrimidine | 0.68 g, yield 23% | C(C1=CC=CC=C1)N1CCN(CC1)C1=NC=C(C(=N1)O)C(C)C(=O)OCC | C20H26N4O3
